US07138361B2
Step A: Preparation of 3-bromo-1-(4-chloro-3-methoxyphenyl)-2-pyrrolidinone
To a stirred solution of 4-chloro-3-methoxybenzeneamine (4.7 g, 29.6 mmol) in methylene chloride (100 mL) at ˜0° C. was slowly added 2,4dibromobutyryl chloride (5.1 mL, 39 mmol). After the addition, the reaction mixture was stirred for ˜5 minutes and triethylamine (24.7 mL, 178 mmol) was then added. The resulting reaction mixture was allowed to warm up to room temperature and stirred at room temperature for 5 days. Water (˜100 mL) was then added to the reaction mixture. The organic layer was separated, dried over MgSO4 and concentrated. The residue was purified by column chromatography (silica gel, ˜33% ethyl acetate/˜67% hexanes) to give the title compound as a yellow solid (3.9 g) melting at 113–115° C.

reactant | 4-chloro-3-methoxybenzeneamine | 29.6 mmol, 4.7 g | ClC1=C(C=C(C=C1)N)OC | C7H8ClNO
reactant | 2,4dibromobutyryl chloride | 39 mmol, 5.1 mL | BrC(C(=O)Cl)CCBr | C4H5Br2ClO
reactant | triethylamine | 178 mmol, 24.7 mL | C(C)N(CC)CC | C6H15N
reactant | Water | ˜100 mL | O | H2O
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-bromo-1-(4-chloro-3-methoxyphenyl)-2-pyrrolidinone | 3.9 g | BrC1C(N(CC1)C1=CC(=C(C=C1)Cl)OC)=O | C11H11BrClNO2
